US05929298
A solution of 2.0 grams of 1-vinyl-4-tert-butylcyclohexanol in 30 ml of toluene containing 40 mg of MTO was refluxed 4 hrs. TLC analysis indicated the presence of some residual starting material, so an additional 10 mg of MTO was added and reflux continued until the starting material was consumed. Workup as in the case of 5-vinyl-5-nonanol above gave 1.25 g (69%) of product as a colorless liquid, bp 90 deg C./15 mm Hg. NMR spectrum was consistent with that expected for the product.

reactant | 1-vinyl-4-tert-butylcyclohexanol | 2.0 grams | C(=C)C1(CCC(CC1)C(C)(C)C)O | C12H22O
reactant | toluene | 30 ml, 40 mg | C1(=CC=CC=C1)C | C7H8
product | 5-vinyl-5-nonanol | C(=C)C(CCCC)(CCCC)O | C11H22O
